US05051518
Ethyl 4-(4-methoxyphenyl)-2,4-dioxobutanoate lithium salt (60.0 g, 0.23 M) synthesized from 4-methoxyacetophenone and diethyloxalate employing lithium hexamethyldisilazide as base, and 4-methoxyphenylhydrazine hydrochloride (44 g, 0.25 M) were combined in ethanol (2 1) and stirred atRT for 24 hr, concentrated in vacuo and crystallized to afford ethyl 1,5-bis (4-methoxyphenyl)pyrazole-3-carboxylate as a white solid, 75 g, 91% yield; mp=97°-98° C.; MS, (m/e) 352 (M+).

reactant | Ethyl 4-(4-methoxyphenyl)-2,4-dioxobutanoate lithium salt | 0.23 M, 60.0 g | [Li].COC1=CC=C(C=C1)C(CC(C(=O)OCC)=O)=O
reactant | 4-methoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | diethyloxalate | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4-methoxyphenylhydrazine hydrochloride | 0.25 M, 44 g | Cl.COC1=CC=C(C=C1)NN
solvent | ethanol | C(C)O | C2H6O
product | ethyl 1,5-bis (4-methoxyphenyl)pyrazole-3-carboxylate | 91% yield | COC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)OC)C(=O)OCC | C20H20N2O4
